US20010036944A1
1. Preparation of (1-bromo-3,4-methylenedioxy-5-methoxybenzene)
To dimethylformamide (400 mL) was added 1-bromo-3,4-dihydroxy-5-methoxybenzene (40 g, 182 mmol), potassium carbonate (75.7 g, 548 mmol), and dibromomethane (95.2 g, 548 mmol), followed by heating to reflux for 1 hour. The solvent was evaporated in vacuo, and the residue was taken up into ethyl ether, filtered, washed with saturated potassium carbonate solution, brine, 1N citric acid solution, and brine. The organic phase was dried over anhydrous magnesium sulfate and filtered through charcoal. The filtrate was concentrated in vacuo giving a crystalline precipitate which was filtered, washed with hexane, and dried in vacuo to a solid. This material was distilled at 2 mm Hg, 125° C., giving a crystalline solid, 21.7 g, 52% yield. NMR spectra and elemental analysis were consistent with the structure.

reactant | 1-bromo-3,4-dihydroxy-5-methoxybenzene | 182 mmol, 40 g | BrC1=CC(=C(C(=C1)OC)O)O | C7H7BrO3
reactant | potassium carbonate | 548 mmol, 75.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dibromomethane | 548 mmol, 95.2 g | BrCBr | CH2Br2
solvent | dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 1-bromo-3,4-methylenedioxy-5-methoxybenzene | 52% yield | BrC1=CC2=C(C(=C1)OC)OCO2 | C8H7BrO3
